Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Trauma activation- MECHANICAL FALL resulting in small left 
frontal SAH, L intra-articular dorsally angulated noncomminuted 
dorsal radial fracture and R thumb proximal and distal 
phalangeal fractures
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ year old female with PMH HTN, HLD,osteoporosis 
who presents after mechanical fall resulting in small frontal 
subdural hematoma, L distal radius fracture and R thumb proximal 
and distal phalangeal fractures. Patient is visiting from ___ and ___ down a set of ___ stairs. No LOC. She denies 
paresthesias of her bilateral digits. 

 
Past Medical History:
HTN
hypercholesterolemia
hypothyroidism
Osteporosis
 
Social History:
___
___ History:
Non contributory 
 
Physical Exam:
VS: 98.0 F 109/70 67 18 96 RA
General: In NAD, AOX3
Cardio: Normal S1, S2
Pulmonary: CTAB
Abdomen: soft, ND, NT
Extremities: RUE and LUE in splints and elevated

 
Pertinent Results:
___ 09:12AM BLOOD WBC-7.8 RBC-3.77* Hgb-11.4 Hct-34.9 
MCV-93 MCH-30.2 MCHC-32.7 RDW-12.4 RDWSD-42.1 Plt ___
___ 12:45PM BLOOD WBC-14.1* RBC-4.07 Hgb-12.4 Hct-38.0 
MCV-93 MCH-30.5 MCHC-32.6 RDW-12.2 RDWSD-42.1 Plt ___
___ 12:45PM BLOOD Neuts-87.6* Lymphs-6.3* Monos-5.4 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-12.33* AbsLymp-0.89* 
AbsMono-0.76 AbsEos-0.01* AbsBaso-0.02
___ 09:12AM BLOOD Plt ___
___ 12:45PM BLOOD Plt ___
___ 12:45PM BLOOD ___ PTT-24.7* ___
___ 09:12AM BLOOD Glucose-214* UreaN-7 Creat-0.7 Na-137 
K-4.1 Cl-105 HCO3-21* AnGap-11
___ 12:45PM BLOOD UreaN-12
___ 12:45PM BLOOD Lipase-15
___ 09:12AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.8
___ 12:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:45PM BLOOD LtGrnHD-HOLD
___ 12:54PM BLOOD Glucose-123* Lactate-1.5 Creat-0.7 Na-141 
K-4.2 Cl-108 calHCO3-24
 
Brief Hospital Course:
The patient presented Emergency Department on ___ as a 
trauma activation s/p mechanical fall down ___ stairs resulting 
in a subdural hematoma, L intra-articular dorsally angulated 
noncomminuted DRF and R thumb proximal and distal phalangeal 
fractures

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oxycodone.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: This patient was on a regular diet. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
MUSCULOSKELTAL: The patient reports LUE weakness and a left 
upper extremity X-ray showed no fractures. Hand surgery consult 
recommends operative management of her fractures, on an elective 
basis. Before discharge she was consented for ORIF L DRFx, 
ex-fix R thumb. 
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
1.  Alendronate Sodium 70 mg PO WEEKLY  
2.  Enalapril Maleate 20 mg PO DAILY  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  Simvastatin 20 mg PO QPM  

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO WEEKLY  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  Enalapril Maleate 20 mg PO DAILY  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MECHANICAL FALL resulting in small left frontal SAH,  L 
intra-articular dorsally angulated noncomminuted dorsal radial 
fracture and R thumb proximal and distal phalangeal fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.  LUE sugar tong 
splint
-RUE thumb spica splint. 

 
Discharge Instructions:
Ms. ___,

The patient presented Emergency Department on ___ as a 
trauma activation s/p mechanical fall down ___ stairs resulting 
in a subdural hematoma,  L intra-articular dorsally angulated 
noncomminuted DRF and R thumb proximal and distal phalangeal 
fractures.

Medications: Please continue to take all of your home 
medications as prescribed. 

Diet: Please resume regular diet 

Activity: Please continue all activity as tolerated. Keep upper 
extremities elevated for comfort and to reduce swelling while in 
splint cast. 

Pain medications: You will be prescribed oxycodone for pain. 
Since it is a narcotic it can cause constipation. Please take 
Colace as prescribed to prevent this. You can also take 
Ibuprofen and Tylenol as needed for pain control. 

Follow up: Please follow up at your plastic hand surgery clinic 
and ACS surgery clinic appointments as described below. Also 
follow up with your primary care doctor after discharge. 

Thank you for letting us take care of you. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oxycodone.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: This patient was on a regular diet.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
MUSCULOSKELTAL: The patient reports LUE weakness and a left 
upper extremity X-ray showed no fractures.  Hand surgery consult 
recommends operative management of her fractures, on an elective 
basis. Before discharge she was consented for ORIF L DRFx, 
ex-fix R thumb. 
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Followup Instructions:
___